US08138177B2
Step 4. tert-butyl[1,1-dimethyl-3-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)propyl]carbamate
To a suspension of 1-(3-amino-3-methylbutyl)-1,3-dihydro-2H-benzimidazol-2-one (0.22 g, 1.0 mmol) in dichloromethane (2 mL) and THF (2 mL) were added triethylamine (0.28 mL, 2.0 mmol) and di-tert-butyl dicarbonate (0.24 g, 1.1 mmol) at rt. After stirring for 1.5 h, the mixture was diluted with ethyl acetate and washed with water and brine, dried over magnesium sulfate and concentrated in vacuo: The residue was purified by column chromatography on silica gel eluting with dichloromethane/methanol (25/1) to give 0.32 g (quantitative yield) of the title compound.

reactant | 1-(3-amino-3-methylbutyl)-1,3-dihydro-2H-benzimidazol-2-one | 1.0 mmol, 0.22 g | NC(CCN1C(NC2=C1C=CC=C2)=O)(C)C | C12H17N3O
reactant | triethylamine | 2.0 mmol, 0.28 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 1.1 mmol, 0.24 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl[1,1-dimethyl-3-(2-oxo-2,3-dihydro-1H-benzimidazol-1-yl)propyl]carbamate | 0.32 g, quantitative yield | C(C)(C)(C)OC(NC(CCN1C(NC2=C1C=CC=C2)=O)(C)C)=O | C17H25N3O3
